US07368578B2
To a mixture of 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde (0.50 g), ethyl diethylphosphonoacetate (0.25 g) and N,N-dimethylformamide (20 mL) was added sodium hydride (60% in oil, 0.050 g) under ice-cooling. The mixture was stirred at room temperature for 15 hrs. Water was added to the reaction mixture and the precipitated crystals were collected by filtration to give ethyl (2E)-3-(3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoate as colorless crystals (0.48 g, yield 83%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 142-143° C.

reactant | 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.50 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=C1)C | C26H21N3O5
reactant | ethyl diethylphosphonoacetate | 0.25 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.050 g | [H-].[Na+]
solvent | Water | O | H2O
product | ethyl (2E)-3-(3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoate | 0.48 g, yield 83% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(COC2=NN(C=C2/C=C/C(=O)OCC)C2=CC=CC=C2)C=C1)C | C30H27N3O6
